US04739049
3-Amino-6-chloro-2-methylthio-4-phenyl-quinoline
To a stirred solution of 488.9 mg (1.0 mmole) of 3-amino-6-chloro-2-(dimorpholino)phosphinyloxy-4-phenylquinoline in 30 ml of dry tetrahydrofuran was added 4 ml of a 1M solution of sodium salt of methyl mercaptan in cellusolve. The reaction mixture was heated to reflux for 2 hrs. The resulting suspension was then allowed to cool to room temperature at which time the insoluble salts were removed by filtration. The filtrate was concentrated to an oily gum. The gum was separated by preparative thin-layer chromatography (six 20 cm×20 cm×1.5 mm silica gel plates developed in a 1:9 (v/v) mixture of ether and benzene. The desired product was isolated and crystallized from ether-hexane. The product consisted of light yellow prisms were collected, mp 115°-117°. This material was found to be identical to that of an authentic sample (mp 115°-117°) by tlc and mixture mp.

reactant | 3-amino-6-chloro-2-(dimorpholino)phosphinyloxy-4-phenylquinoline | 1.0 mmole, 488.9 mg | NC=1C(=NC2=CC=C(C=C2C1C1=CC=CC=C1)Cl)OP(=O)(N1CCOCC1)N1CCOCC1 | C23H26ClN4O4P
reactant | sodium | [Na] | Na
reactant | methyl mercaptan | CS | CH4S
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-Amino-6-chloro-2-methylthio-4-phenyl-quinoline | NC=1C(=NC2=CC=C(C=C2C1C1=CC=CC=C1)Cl)SC | C16H13ClN2S
